US07507740B2
(i) Production of 4-chloro-6-(2-furyl)-5-methyl-5H-pyrrolo[3,2-d]pyrimidine
To a solution of 4-chloro-6-(2-furyl)-5H-pyrrolo[3,2-d]pyrimidine (220 mg) in N,N-dimethylformamide (2.5 mL) were added potassium carbonate (139 mg) and methyl iodide (0.25 mL) and the mixture was stirred at room temperature for 8 hrs. The mixture was poured into water (30 mL) and extracted with ethyl acetate (30 mL×3). The organic layers were combined and dried over anhydrous magnesium sulfate. After concentration under reduced pressure, the residue was subjected to silica gel column chromatography (eluent, hexane:ethyl acetate=4:1→0:1) to give the title compound (94 mg).

reactant | 4-chloro-6-(2-furyl)-5H-pyrrolo[3,2-d]pyrimidine | 220 mg | ClC=1C2=C(N=CN1)C=C(N2)C=2OC=CC2 | C10H6ClN3O
reactant | potassium carbonate | 139 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.25 mL | CI | CH3I
reactant | water | 30 mL | O | H2O
solvent | N,N-dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
product | 4-chloro-6-(2-furyl)-5-methyl-5H-pyrrolo[3,2-d]pyrimidine | 94 mg | ClC=1C2=C(N=CN1)C=C(N2C)C=2OC=CC2 | C11H8ClN3O
